US07109229B2
(a) (7-Methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester
A solution of 7-methoxy-indole (1.10 g, 7.47 mmol) in Et2O (150 mL) cooled to 0–5° C. was treated with oxalyl chloride (0.75 mL, 8.6 mmol). After 30 min, the mixture was allowed to warm to room temperature and stirred 1 h. Additional oxalyl chloride (0.25 mL, 2.87 mmol) was added, the mixture stirred an additional 1 h and then cooled to −78° C. A 25% solution of sodium methoxide in methanol (5.4 mL, 23.8 mmol) was added over 10 min. The suspension was warmed to room temperature, stirred 2 h and then poured into EtOAc/pH 7 buffer. The EtOAc layer was separated and washed with water, brine, dried (MgSO4), filtered and concentrated to ˜20 mL. The resulting slurry was diluted with Et2O (75 mL), and filtered. The solid obtained was washed with Et2O and dried under vacuum overnight to afford the title compound as an off-white solid (1.23 g, 71%). Upon standing, the mother liquor afforded a second crop (0.26 g, 15%). 1H NMR (400 MHz, DMSO-d6) 12.63 (br s, 1H), 8.29 (d, J=3.5 Hz, 1H), 7.73 (d, J=8 Hz, 1H), 7.20 (dd, J=8, 8 Hz, 1H), 6.89 (d, J=8 Hz, 1H). 13C NMR (75.5 MHz, DMSO-d6) 178.72, 163.88, 146.37, 137.19, 127.02, 125.54, 123.73, 113.52, 112.92, 104.60, 55.34, 52.42. IR (CHCl3, cm−1) 3452, 1732, 1648. MS (electrospray, m/z) 234.1 (M++1), 232.2 (M−−1). Anal. Calcd for C12H11NO4: C, 61.80; H, 4.75; N, 6.01. Found: C, 61.61; H, 4.83; N, 6.01.

reactant | 7-methoxy-indole | 7.47 mmol, 1.10 g | COC=1C=CC=C2C=CNC12 | C9H9NO
reactant | oxalyl chloride | 8.6 mmol, 0.75 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 2.87 mmol, 0.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 23.8 mmol, 5.4 mL | CO | CH4O
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | EtOAc | pH 7 | CCOC(=O)C | C4H8O2
product | (7-Methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 1.23 g, 71% | COC(C(=O)C1=CNC2=C(C=CC=C12)OC)=O | C12H11NO4
